US07064144B2
To a mixture of ethyl 1-[(2S,3R)-2-(tert-butyldimethylsilyloxy)-5-methanesulfonyloxy-3-pentyl]imidazole-4-carboxylate (160 mg, 0.368 mmol) and 2-naphthalenethiol (118 mg, 0.736 mmol) in DMF (5 ml) was added potassium carbonate (102 mg, 0.736 mmol) at room temperature and the reaction mixture was stirred for 2 hours. The resulting reaction mixture was poured into water (25 ml) and extracted with ethyl acetate. The organic layer was washed with brine, dried (sodium sulfate) and evaporated in vacuo. The residue was purified by silica gel (10 g) chromatography eluting with chloroform/methanol (100:1 to 50:1) to give ethyl 1-[(2S,3R)-2-(tert-butyldimethylsilyloxy)-5-(2-naphthylthio)-3-pentyl]imidazole-4-carboxylate (146 mg, 79.5%).

reactant | ethyl 1-[(2S,3R)-2-(tert-butyldimethylsilyloxy)-5-methanesulfonyloxy-3-pentyl]imidazole-4-carboxylate | 0.368 mmol, 160 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](C)[C@@H](CCOS(=O)(=O)C)N1C=NC(=C1)C(=O)OCC | C18H34N2O6SSi
reactant | 2-naphthalenethiol | 0.736 mmol, 118 mg | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | potassium carbonate | 0.736 mmol, 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 25 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl 1-[(2S,3R)-2-(tert-butyldimethylsilyloxy)-5-(2-naphthylthio)-3-pentyl]imidazole-4-carboxylate | 146 mg, 79.5% | [Si](C)(C)(C(C)(C)C)O[C@@H](C)[C@@H](CCSC1=CC2=CC=CC=C2C=C1)N1C=NC(=C1)C(=O)OCC | C27H38N2O3SSi
